US06337336B1
5-{2-[4-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethoxy}-quinoline
A solution of 5-(2-chloroethoxy)quinoline (0.5 g, 24 mmol), ), 3-(1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine (0.58 g, 29 mmol) and triethylamine (0.67 ml, 48 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 4 hours at 80° C. The mixture was poured into water dilute with sodium hydroxide solution and extracted with ethyl acetate (3×100 ml). The organic layer was washed with water (3×100 ml), sodium bicarbonate and dried over anhydrous sodium sulfate, filtered, and the solvent was removed under vacuum to give a pale yellow solid, which was triturated with ethanol-ethyl ether to afford a pale yellow solid: mp 202-205° C.

reactant | 5-(2-chloroethoxy)quinoline | 24 mmol, 0.5 g | ClCCOC1=C2C=CC=NC2=CC=C1 | C11H10ClNO
reactant | 3-(1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 29 mmol, 0.58 g | N1CCC(=CC1)C1=CNC2=NC=CC=C21 | C12H13N3
reactant | triethylamine | 48 mmol, 0.67 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | sodium hydroxide | [OH-].[Na+]
product | 5-{2-[4-(1H-Pyrrolo[2,3-b]pyridin-3-yl)-3,6-dihydro-2H-pyridin-1-yl]-ethoxy}-quinoline | N1C=C(C=2C1=NC=CC2)C=2CCN(CC2)CCOC2=C1C=CC=NC1=CC=C2 | C23H22N4O
